US07659245B2
2-(3,5-Difluoro-phenyl)-7-methoxy-8-methyl-quinazolin-4-ol (128)
The general procedure described above was followed using 2-amino-4-methoxy-3-methyl benzamide as benzamide derivative [A] and 3,5-difluoro-benzoyl chloride as acid chloride [B], which gave the title compound (2.1 g, 85%), [M+H]=303.

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 3,5-difluoro-benzoyl chloride | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
product | 2-(3,5-Difluoro-phenyl)-7-methoxy-8-methyl-quinazolin-4-ol | 2.1 g, 85% | FC=1C=C(C=C(C1)F)C1=NC2=C(C(=CC=C2C(=N1)O)OC)C | C16H12F2N2O2
